US06638929B2
A mixture of 2.32 g (6.11 mmol) of 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile and 35 mL of phosphorus oxychloride is heated under reflux for 1 hour, then cooled to room temperature. Excess phosphorus oxychloride is evaporated to yield a residue, to which toluene is added and the resulting solution is reduced in vacuo. Toluene is added and evaporated twice more. The resulting residue is cooled with ice bath, neutralized with cold saturated solution of sodium bicarbonate and stirred. The solid is collected by filtration, washed with cold water and dried to yield 1.989 g of 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinoline-3-carbonitrile as a yellow solid.

reactant | 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 6.11 mmol, 2.32 g | COC=1C(=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C1)OCCN1CCOCC1 | C21H21N3O4
reactant | phosphorus oxychloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinoline-3-carbonitrile | 1.989 g | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC)C#N | C21H20ClN3O3
